US04962119
2-[(2,6-Dichloro-3-methylphenyl)amino]-benzoic acid, hydrazide
Hydrazine hydrate (2 ml) is added dropwise to a suspension of methyl 2-[(2,6-dichloro-3-methylphenyl)amino]benzoate (227.1 mg, 0.73 mmol) in 10 ml of methanol. The reaction mixture is heated at 60° C. for seven hours under an atmosphere of nitrogen and then allowed to cool to room temperature overnight. The now clear colorless solution is concentrated in vacuo and chromatographed, eluting with ethyl acetate and hexane (gradient of 1:2 to 1:1), providing 208.6 mg (92%) of a white solid, mp 158°-160° C.

reactant | Hydrazine hydrate | 2 ml | O.NN
reactant | methyl 2-[(2,6-dichloro-3-methylphenyl)amino]benzoate | 0.73 mmol, 227.1 mg | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)OC)C=CC=C1 | C15H13Cl2NO2
solvent | methanol | 10 ml | CO | CH4O
product | 2-[(2,6-Dichloro-3-methylphenyl)amino]-benzoic acid, hydrazide | 208.6 mg, 92% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)NN)C=CC=C1 | C14H13Cl2N3O
